US06849639B2
Step B: Methyl 1-(3-aminophenyl)-5-oxopyrrolidine-3-carboxylate
Platinum oxide (202.6 mg, 0.89 mmol, 0.05 equiv) was added to a solution of methyl 1-(3-nitrophenyl)-5-oxopyrrolidine-3-carboxylate (4.2014 g, 15.9 mmol, 1 equiv) in ethyl acetate (170 mL). The resulting suspension was placed under a hydrogen balloon and was stirred at 23° C. for 18 hr. The reaction was filtered through celite and was concentrated in vacuo to give the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.15 (t, 1H, J=2.1 Hz), 7.13 (t, 1H, J=8.1 Hz), 6.78 (dd, 1H, J=8.1 Hz, 1.5 Hz), 6.49 (dd, 1H, J=8.0 Hz, 1.7 Hz), 4.07 (dd, 1H, J=10.0 Hz, 6.8 Hz), 3.99 (dd, 1H, J=10.0 Hz, 8.7 Hz), 3.77 (s, 3H), 3.75 (br s, 2H), 3.29-3.38 (m, 1H), 2.92 (dd, 1H, J=17.3 Hz, 7.8 Hz), 2.84 (dd, 1H, J=17.3 Hz, 9.7 Hz). MS: (+) 235.0 (M+H), 469.5, 703.5; (−) 293.5, 527.0.

reactant | methyl 1-(3-nitrophenyl)-5-oxopyrrolidine-3-carboxylate | 15.9 mmol, 4.2014 g, 1 equiv | [N+](=O)([O-])C=1C=C(C=CC1)N1CC(CC1=O)C(=O)OC | C12H12N2O5
solvent | ethyl acetate | 170 mL | C(C)(=O)OCC | C4H8O2
catalyst | Platinum oxide | 0.89 mmol, 202.6 mg, 0.05 equiv | [Pt]=O
product | Methyl 1-(3-aminophenyl)-5-oxopyrrolidine-3-carboxylate | NC=1C=C(C=CC1)N1CC(CC1=O)C(=O)OC | C12H14N2O3
